US07626021B2
285 mg (0.55 mmol) of 2-amino-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide was dissolved in 25 mL of dichloromethane. 175 μL (132 mg, 1.02 mmol) of di-iso-propylethylamine was added and the solution cooled to 0° C. 110 μL (208 mg, 1.32 mmol) of bromoacetyl chloride was added in two portions within 2 h while stirring at 0° C. Upon complete addition the mixture was stirred for 19 h, allowing to warm to ambient temperature. The resulting solution was evaporated and the residue directly purified by flash chromatography on silica gel using a gradient of ethyl acetate containing 15% of methanol in hexanes to afford 306 mg (0.48 mmol, 87%) of 2-(2-bromo-acetylamino)-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide as a tan solid. MS: m/z 637.9+640.0 (M+H+).

reactant | 2-amino-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.55 mmol, 285 mg | NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C28H35N5O3Si
reactant | di-iso-propylethylamine | 1.02 mmol, 175 μL, 132 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetyl chloride | 1.32 mmol, 110 μL, 208 mg | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-(2-bromo-acetylamino)-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.48 mmol, 306 mg, 87% | BrCC(=O)NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C30H36BrN5O4Si
